* PSpice Model Editor - Version 17.4.0
*$
*Feb. 28, 2005
*Doc. ID: 76931, S-50232, Rev. B
.SUBCKT Si1433DH 4 1 2
M1  3 1 2 2 PMOS W=339769u L=0.25u          
M2  2 1 2 4 NMOS W=339769u L=0.50u
R1  4 3     RTEMP 50E-3
CGS 1 2     150E-12
DBD 4 2     DBD
***************************************************************  
.MODEL  PMOS       PMOS  ( LEVEL  = 3           TOX    = 5E-8
+ RS     = 40E-3           RD     = 0           NSUB   = 1.4E17
+ KP     = 5E-8            UO     = 400         
+ VMAX   = 0               XJ     = 5E-7        KAPPA  = 1.1E-1
+ ETA    = 1E-4           TPG    = -1  			
+ IS     = 0               LD     = 0                        
+ CGSO   = 0               CGDO   = 0           CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*************************************************************** 
.MODEL  NMOS       NMOS  ( LEVEL  = 3           TOX    = 5E-8
+NSUB    = 9E16            NFS    = 1E12        TPG    = -1)   
*************************************************************** 
.MODEL DBD D (CJO=60E-12 VJ=0.38 M=0.38
+RS=0.1 FC=0.5 IS=1E-12 TT=6E-8 N=1 BV=30.2)
*************************************************************** 
.MODEL RTEMP RES (TC1=7E-3 TC2=5.5E-6)
*************************************************************** 
.ENDS
*$
*July 27, 2005
*Doc. ID: 77532, S-51303, Rev. B
.SUBCKT Si4483EDY 4 1 2
M1   3 5 2 2 PMOS W=6510918u L=0.50u              
M2   2 5 2 4 NMOS W=6510918u L=0.50u      
R1   4 3     RTEMP 4E-3  
CGS  5 2     200E-12
DBD  4 2     DBD
XESD 1 5 2   Si4483EDY_ESD
**************************************************************  
.MODEL  PMOS        PMOS ( LEVEL  = 3          TOX    = 5E-8
+ RS     = 1.5E-3          RD     = 0          NSUB   = 9E16
+ KP     = 3.1E-6          UO     = 400             
+ VMAX   = 0               XJ     = 5E-7       KAPPA  = 2
+ ETA    = 1E-4            TPG    = -1  	   RDS = 68m
+ IS     = 0              LD     = 0           VTO = 1.3             
+ CGSO   = 0               CGDO   = 0          CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
************************************************************** 
.MODEL  NMOS        NMOS ( LEVEL  = 3          TOX    = 5E-8
+NSUB    = 9E16            TPG    = -1)   
************************************************************** 
.MODEL DBD D (CJO=150E-12 VJ=0.38 M=0.33
+RS=0.1 FC=0.5 IS=1E-12 TT=6E-8 N=1 BV=0.2)
************************************************************** 
.MODEL RTEMP RES (TC1=5E-3 TC2=5.5E-6)
************************************************************** 
.ENDS Si4483EDY
*$
