* source TEST
R_R1         0 N21268  10k TC=0,0 
C_C1         0 N14709  4.7u  TC=0,0 
R_RL         0 N14709  6R TC=0,0 
V_V1         N14763 0 -24Vdc
X_Q1         N14763 N21268 N14709 Si1433DH
D_D1         N21268 N14709 ZY15GP 
